US04404207
To a solution of 3.6 g of 6,7-dihydro-9-fluoro-5-methyl-1-oxo-8-(1-pyrryl)-1H,5H-benzo[ij]quinolizine-2-carboxylic acid in 50 ml of trifluoroacetic acid was added 2.0 g ten percent palladium on charcoal. The mixture was hydrogenated on a Paar apparatus for two hours at 50 psi at 50° C. The mixture was filtered, and the filtrate was evaporated. The residue was mixed with 50 ml of water and the pH adjusted to 5 by the addition of ten percent sodium hydroxide solution and acetic acid. The precipitate obtained was recrystallized from aqueous N,N-dimethylformamide (80%) to provide tan crystals of 6,7-dihydro-9-fluoro-5-methyl-1-oxo-8-(1-pyrrolidyl)-1H,5H-benzo[ij]quinolizine-2-carboxylic acid, m.p. 243°-245° C. Analysis: Calculated for C18H19FN2O3 : %C, 65.5; %H, 5.8; %N, 8.5; Found: %C, 65.8; %H, 5.8; %N, 8.5. The structural assignment was confirmed by infrared and nuclear magnetic resonance spectral analyses.

reactant | 6,7-dihydro-9-fluoro-5-methyl-1-oxo-8-(1-pyrryl)-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | 3.6 g | FC1=C(C=2CCC(N3C=C(C(C(C23)=C1)=O)C(=O)O)C)N1C=CC=C1 | C18H15FN2O3
solvent | trifluoroacetic acid | 50 ml | FC(C(=O)O)(F)F | C2HF3O2
catalyst | palladium on charcoal | 2.0 g | [Pd] | Pd
product | 6,7-dihydro-9-fluoro-5-methyl-1-oxo-8-(1-pyrrolidyl)-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | FC1=C(C=2CCC(N3C=C(C(C(C23)=C1)=O)C(=O)O)C)N1CCCC1 | C18H19FN2O3
